US07423052B2
Description 113. (RS)-4-{1-[5-(4-Fluorophenyl)-2-methylthiazol-4-yl]-methanoyl}-3-[4-(4-fluoro-phenyl)-oxazol-2-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester
(RS)-4-{1-[5(4-Fluorophenyl)-2-methylthiazol4-yl]-methanoyl}-3-[2-(4-fluoro-phenyl)-2-oxo-ethoxycarbonylmethyl]-piperazine-1-carboxylic acid tert-butyl ester, description 111 (0.385 g), tert-butyl carbamate (0.376 g) and boron trifluoride etherate (4 drops) were dissolved in xylene (5 ml) and heated to 140° C., under argon and with stirring for 48 hours. After cooling, the reaction mixture was partitioned between ethyl acetate and saturated sodium hydrogen carbonate solution. The organic layer was dried (MgSO4), evaporated and the residue chromatographed over silica gel. Elution with a gradient of 25 to 100% ethyl acetate in hexane provided the title compound as a pale yellow oil (0.130 g), mass spectrum (API+) 581 [MH+], C30H30F2N4O4S requires 580.

reactant | (RS)-4-{1-[5(4-Fluorophenyl)-2-methylthiazol4-yl]-methanoyl}-3-[2-(4-fluoro-phenyl)-2-oxo-ethoxycarbonylmethyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(=O)C=1N=C(SC1C1=CC=C(C=C1)F)C)CC(=O)OCC(=O)C1=CC=C(C=C1)F | C30H31F2N3O6S
reactant | tert-butyl carbamate | 0.376 g | C(N)(OC(C)(C)C)=O | C5H11NO2
catalyst | boron trifluoride etherate | 4 drops | B(F)(F)F.CCOCC
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | (RS)-4-{1-[5-(4-Fluorophenyl)-2-methylthiazol-4-yl]-methanoyl}-3-[4-(4-fluoro-phenyl)-oxazol-2-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.130 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(=O)C=1N=C(SC1C1=CC=C(C=C1)F)C)CC=1OC=C(N1)C1=CC=C(C=C1)F | C30H30F2N4O4S
